US05716954
To a solution of 8-(3-nitrophenyl)-pyrido[2,3-d]pyridazin-5-one (0.16 g, 0.6 moles) in tetrahydrofuran (50 ml) was added potassium carbonate (0.19 g, 7.1 moles), potassium iodide (1.0 g, 6.0 moles) and 4-picolyl chloride (0.98 g, 6.0 mmoles). The mixture was stirred and refluxed under an inert atmosphere for 18 hours. The solvent was removed under vacuum. The residue was partitioned in methanol/ethyl acetate (1:1), chromatographed in 100% hexane followed by 100% ethyl acetate. The remaining solvent was removed yielding 0.58 g of crude 6-(4-pyridylmethyl)-8-(3-nitrophenyl)pyrido[2,3-d]pyridazin-5-one, which was recrystallized from methanol yielding 0.08 g of the pure compound (37.1%), mp. 167°-168° C.

reactant | 8-(3-nitrophenyl)-pyrido[2,3-d]pyridazin-5-one | 0.6 moles, 0.16 g | [N+](=O)([O-])C=1C=C(C=CC1)C1=NNC(C2=C1N=CC=C2)=O | C13H8N4O3
reactant | potassium carbonate | 7.1 moles, 0.19 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 6.0 moles, 1.0 g | [I-].[K+]
reactant | 4-picolyl chloride | 6.0 mmoles, 0.98 g | N1=CC=C(C=C1)CCl | C6H6ClN
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 6-(4-pyridylmethyl)-8-(3-nitrophenyl)pyrido[2,3-d]pyridazin-5-one | 0.58 g | N1=CC=C(C=C1)CN1N=C(C2=C(C1=O)C=CC=N2)C2=CC(=CC=C2)[N+](=O)[O-] | C19H13N5O3
